US07759376B2
Step 1. Preparation of methyl 4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]biphenyl-4-carboxylate
A mixture of bis(pinacolato)diboron (0.35 g, 1.4 mmol), methyl 4-bromobenzoate (0.30 g, 1.4 mmol), palladium(II) acetate (0.01 g, 0.04 mmol), and KOAc (0.41 g, 4.2 mmol) in DMF (7.5 mL) was degassed with argon for 30 min at rt. The mixture was then heated at 80° C. for 4 h. After the mixture was cooled to rt, N-(4-bromophenyl)-6-fluoro-1,3-benzothiazol-2-amine (0.45 g, 1.4 mmol), tetrakis(triphenylphosphine)palladium(0) (0.05 g, 0.04 mmol), and saturated aqueous NaHCO3 (5 mL) were added. The mixture was heated at 85° C. overnight. Upon cooling to rt, the mixture was diluted with EtOAc. The combined organic phases were separated, dried over Na2SO4, and concentrated in vacuo. Purification by column chromatography (25% EtOAc in hexanes) yielded 0.094 g (18%) of the title compound. LC/MS m/z 379.3 (MH+); retention time 3.87 min. 1H NMR (400 MHz, CD3OD) δ 3.93 (s, 3H), 7.05 (t, 1H), 7.39-7.81 (m, 8H), 8.03 (d, 2H).

reactant | bis(pinacolato)diboron | 1.4 mmol, 0.35 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | methyl 4-bromobenzoate | 1.4 mmol, 0.30 g | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
reactant | KOAc | 4.2 mmol, 0.41 g | CC(=O)[O-].[K+]
reactant | N-(4-bromophenyl)-6-fluoro-1,3-benzothiazol-2-amine | 1.4 mmol, 0.45 g | BrC1=CC=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)F | C13H8BrFN2S
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium(II) acetate | 0.04 mmol, 0.01 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.04 mmol, 0.05 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]biphenyl-4-carboxylate | 0.094 g, 18% | FC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(=O)OC)C=C1 | C21H15FN2O2S
